US07238720B2
c) 3-(4-Toluenesulfonyl)-1-dimethylcarbamoyl-1H-1,2,4-triazole
A suspension of 3-(4-toluenesulfonyl)-1H-1,2,4-triazole (100 mg), dimethylcarbamoyl chloride (62 μl) and potassium carbonate (124 mg) in N,N-dimethylformamide was stirred at room temperature for 70 minutes. To the reaction mixture were added ethyl acetate and water, and extraction was carried out with ethyl acetate. The obtained organic layer was washed three times with water, and then dried over magnesium sulfate. The residue was purified by a short-column chromatography (eluent: n-hexane/ethyl acetate=3/1) to yield a clear oil (77 mg).

reactant | 3-(4-toluenesulfonyl)-1H-1,2,4-triazole | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)C1=NNC=N1)C | C9H9N3O2S
reactant | dimethylcarbamoyl chloride | 62 μl | CN(C(=O)Cl)C | C3H6ClNO
reactant | potassium carbonate | 124 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(4-Toluenesulfonyl)-1-dimethylcarbamoyl-1H-1,2,4-triazole | 77 mg | C1(=CC=C(C=C1)S(=O)(=O)C1=NN(C=N1)C(N(C)C)=O)C | C12H14N4O3S
